US06965048B2
To a suspension of 15.0 g (57 mmol) of trans-(4-hydroxy-cyclohexyl)-methyl-carbamic acid benzyl ester in 230 mL of toluene were added 16.8 mL (114 mmol, 2 eq) of bromo-acetic acid tert-butyl ester and 1.93 g (5.7 mmol, 0.1 eq) of tetra-n-butylammonium hydrogensulfate and 400 mL of 50% aqueous NaOH. The mixture was stirred at RT for 4 h, additional 1.93 g (5.7 mmol, 0.1 eq) of tetra-n-butylammonium hydrogensulfate and 4.2 mL of bromo-acetic acid tert-butyl ester were added and stirring was continued over night. The solution was concentrated and acidified by addition of 400 mL of 37% HCl. The solution was extracted with EtOAc, the organic phase was washed with brine and dried over Na2SO4. The solvent was removed to yield 18.2 g (quantitative) of trans-[4-(benzyloxycarbonyl-methyl-amino)-cyclohexyloxy]-acetic acid as white solid, MS: 320 (M−H)−.

reactant | trans-(4-hydroxy-cyclohexyl)-methyl-carbamic acid benzyl ester | 57 mmol, 15.0 g | C(C1=CC=CC=C1)OC(N(C)[C@@H]1CC[C@H](CC1)O)=O | C15H21NO3
reactant | bromo-acetic acid tert-butyl ester | 114 mmol, 16.8 mL, 2 eq | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | NaOH | 400 mL | [OH-].[Na+]
reactant | bromo-acetic acid tert-butyl ester | 4.2 mL | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
solvent | toluene | 230 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetra-n-butylammonium hydrogensulfate | 5.7 mmol, 1.93 g, 0.1 eq | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | tetra-n-butylammonium hydrogensulfate | 5.7 mmol, 1.93 g, 0.1 eq | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | trans-[4-(benzyloxycarbonyl-methyl-amino)-cyclohexyloxy]-acetic acid | 18.2 g | C(C1=CC=CC=C1)OC(=O)N([C@@H]1CC[C@H](CC1)OCC(=O)O)C | C17H23NO5
